US08623889B2
Step 2: methyl 6-bromo-4-iodonicotinate
A mixture of 6-bromo-4-iodonicotinic acid (75 mg, 0.23 mmol), potassium carbonate (63 mg, 0.46 mmol), and methyl iodide (0.017 mL, 0.27 mmol) in N,N-dimethylformamide (0.5 mL) was heated at 60° C. for 30 minutes. The cooled reaction mixture was diluted with ethyl acetate (20 mL) and washed with water (15 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 4 g, ISCO, 0-50% ethyl acetate in heptane) to afford the title compound as a white solid (65 mg, 83%), which was used in the next step without further purification.

reactant | 6-bromo-4-iodonicotinic acid | 0.23 mmol, 75 mg | BrC1=NC=C(C(=O)O)C(=C1)I | C6H3BrINO2
reactant | potassium carbonate | 0.46 mmol, 63 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.27 mmol, 0.017 mL | CI | CH3I
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | methyl 6-bromo-4-iodonicotinate | 65 mg, 83% | BrC1=NC=C(C(=O)OC)C(=C1)I | C7H5BrINO2
